US20010019995A1
Preparation of 7-Cycloprop-1-enyl-heptanoic acid diethylamide (Compound 48)
A solution of 7-cycloprop-1-enyl-heptanoic acid (0.25 g, 1.5 mmol) in 10 ml of ether was cooled in an ice bath and treated with 0.3 mL of triethyl amine. Methyl chloroformate (0.16 g, 17 mmol) was added, and the reaction was stirred for 1.5 hours. Excess diethylamine was added while the reaction was still cooled in an ice bath, and the reaction was stirred for one half hour. Additional ether and water were added, and the aqueous phase was acidified to pH 1 with aqueous HCl. The phases were separated, and the organic phase was washed with water, 1N sodium hydroxide, water and brine. The organic phase was dried over magnesium sulfate, filtered and stripped. Column chromatography gave 70 mg of colorless liquid 7-cycloprop-1-enyl-heptanoic acid diethylamide (Compound 48) in 74% purity.

reactant | 7-cycloprop-1-enyl-heptanoic acid | 1.5 mmol, 0.25 g | C1(=CC1)CCCCCCC(=O)O | C10H16O2
reactant | Methyl chloroformate | 17 mmol, 0.16 g | ClC(=O)OC | C2H3ClO2
reactant | diethylamine | C(C)NCC | C4H11N
reactant | HCl | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | water | O | H2O
solvent | triethyl amine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | 7-Cycloprop-1-enyl-heptanoic acid diethylamide | 70 mg | C(C)N(C(CCCCCCC1=CC1)=O)CC | C14H25NO
